US04418077
(D) 2,4-DIFLUORO 3-AMINO BUTYRIC ACID
A mixture of 2,4-difluoro 3-benzylaminobutyric acid, hydrochloride prepared as in Step C (1.010 g, 3.84 mM) and 5% palladium on charcoal (type H, 0.150 g) in glacial acetic acid (30 ml) is shaken under hydrogen (60 psi) in a Parr hydrogenator for 16 hours at room temperature. Filtration of the catalyst, and removal of the solvent in vacuo yield a colourless oil. A first crystal crop was isolated by crystallisation from water/ethanol (0.185 g). A second crystal crop was obtained by passing the mother liquors on an ion exchange column (Dowex 50, H+, eluted with water) (0.190 g). Overall yield about 70%.

reactant | 2,4-difluoro 3-benzylaminobutyric acid, hydrochloride | Cl.FC(C(=O)O)C(CF)NCC1=CC=CC=C1
reactant | water ethanol | 0.185 g | O.C(C)O
catalyst | palladium on charcoal | 0.150 g | [Pd] | Pd
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2,4-DIFLUORO 3-AMINO BUTYRIC ACID | yield about 70% | FC(C(=O)O)C(CF)N | C4H7F2NO2
